US04145531
2-azido-2-deoxyribose (IV)
2.54 g of 2'-azido-2'-deoxyuridine was dissolved in 250 ml of a 15% hydrazine hydrate solution and heated in an oil bath while stirring for a period of one hour to 65° C. Upon expiration of this time, the thin-layer chromatogram of the solvent System A indicated the total disappearance of the starting material. The solution was evaporated in a vacuum and yielded an orange-colored resin which was dissolved in 100 ml of water. 10 ml of benzaldehyde was added and the mixture heated during constant stirring for a period of 8 minutes in a boiling water bath. The solution was then rapidly cooled to below room temperature and a glutinous precipitate was filtered off, consisting mainly of benzaldehydeazine. The filtrate was then extracted with three times 100 ml of ether. The aqueous solution was evaporated and the residue was dissolved in a minimal amount of methanol. The solution was then applied to a silica gel column (2.3 × 32 cm) prepared with chloroform. The column was eluted with 100 ml fractions of chloroform (200 ml), 700 ml of a 5% solution of methanol in chloroform and with 600 ml of a 10% solution of methanol in chloroform. The desired product was found in the fractions 9 to 13 and was identified by examining each fraction by means of thin-layer chromatography, by the solvent System A, and sprayed on plates with a solution of aniline phosphate (17 ml of n-butanol, 6 ml of water, 0.36 ml of aniline and 0.28 ml of 85% phosphoric acid), and, finally, heated for a period of ten minutes in a drier at 110° C. The 2-azido-2-deoxyribose emerged as a reddish-brown stain with an Rf value of 0.5. The fractions containing the product were combined and evaporated to a colorless resin (1.053 g, yield = 64%), which did not crystallize.

reactant | 2'-azido-2'-deoxyuridine | 2.54 g | N(=[N+]=[N-])[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11N5O5
reactant | benzaldehyde | 10 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | hydrazine hydrate | O.NN
solvent | water | 100 ml | O | H2O
product | 2-azido-2-deoxyribose | 1.053 g, yield = 64% | N(=[N+]=[N-])[C@@H](C=O)[C@H](O)[C@H](O)CO | C5H9N3O4
